US07247734B2
This compounds was synthesised in the same manner as described above. 6-Chloro-3-(2-fluoro-phenyl)-7-hydroxy-chromen-4-one (0.37 g, 1.27 mmol), hydrazine hydrate (5 ml), ethanol (15 ml). The quenched solution was extracted into ethyl acetate, washed (water), dried (MgSO4), and the solvent removed under vacuum to give a yellow oil which was purified by column chromatography to give 4-chloro-6-[4-(2-fluoro-phenyl)-1H-pyrazol-3-yl]-benzene-1,3-diol as a white solid (0.28 g, 72.4%); Rf 0.8 cf SM 0.9 ethyl acetate/hexane (70/30).

reactant | 6-Chloro-3-(2-fluoro-phenyl)-7-hydroxy-chromen-4-one | 1.27 mmol, 0.37 g | ClC=1C=C2C(C(=COC2=CC1O)C1=C(C=CC=C1)F)=O | C15H8ClFO3
reactant | hydrazine hydrate | 5 ml | O.NN
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-chloro-6-[4-(2-fluoro-phenyl)-1H-pyrazol-3-yl]-benzene-1,3-diol | 0.28 g, 72.4% | ClC1=C(C=C(C(=C1)C1=NNC=C1C1=C(C=CC=C1)F)O)O | C15H10ClFN2O2
